US08871753B2
tert-Butyl [(3R)-1-({[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]amino}carbonyl)pyrrolidin-3-yl]carbamate
To a mixture of 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride (30 mg, 0.07 mmol) and pyridine (18.9 μL, 0.234 mmol) in methylene chloride (0.4 mL) was added 20% phosgene in toluene (1:4, phosgene:toluene, 50.2 μL, 0.0950 mmol). The resulting mixture was stirred for 1 hour before adding tert-butyl (3R)-pyrrolidin-3-ylcarbamate (14.3 mg, 0.0767 mmol) and pyridine (13.0 μL, 0.161 mmol). The mixture was allowed to stir overnight. It was diluted with methanol and purified by preparative LCMS (pH 10) to give the desired product. LCMS calculated for C28H33ClN7O3 (M+H)+: m/z=550.2.

reactant | 6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-amine dihydrochloride | 0.07 mmol, 30 mg | Cl.Cl.ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)N)C3
reactant | pyridine | 0.234 mmol, 18.9 μL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.0950 mmol, 50.2 μL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl (3R)-pyrrolidin-3-ylcarbamate | 0.0767 mmol, 14.3 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | pyridine | 0.161 mmol, 13.0 μL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 0.4 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | tert-Butyl [(3R)-1-({[6-chloro-2,4,8,22-tetraazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaen-12-yl]amino}carbonyl)pyrrolidin-3-yl]carbamate | ClC=1C=NC=2NC=3C=CC=C(CCC4=C(C=CC(NC1N2)=C4)NC(=O)N4C[C@@H](CC4)NC(OC(C)(C)C)=O)C3 | C28H32ClN7O3
